US07728005B2
To N-(benzyloxycarbonyl)-DL-asparagine (7.5 g) were added ethyl acetate (36 ml), acetonitrile (36 ml), water (18 ml) and iodosobenzene diacetate (10 g), and the mixture was stirred overnight at room temperature. The reaction mixture was filtered and, after washing the obtained solid with ethyl acetate, dioxane (180 ml), water (40 ml), 1N aqueous sodium hydroxide solution (10 ml) and di-t-butyl dicarbonate (6.1 g) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and washed with 0.5N hydrochloric acid. The solvent was evaporated to give 2-benzyloxycarbonylamino-3-tert-butoxycarbonylaminopropionic acid as a crude product. The crude product was treated in the same manner as in Step 1 of Example 15 to give (2-benzyloxycarbonylamino-3-hydroxypropyl)carbamic acid tert-butyl ester (2 g).

reactant | N-(benzyloxycarbonyl)-DL-asparagine | 7.5 g | C(C1=CC=CC=C1)OC(=O)NC(CC(N)=O)C(=O)O | C12H14N2O5
reactant | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 36 ml | C(C)#N | C2H3N
reactant | iodosobenzene diacetate | 10 g | C(C)(=O)O.C(C)(=O)O.I(=O)C1=CC=CC=C1
solvent | water | 18 ml | O | H2O
product | 2-benzyloxycarbonylamino-3-tert-butoxycarbonylaminopropionic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CNC(=O)OC(C)(C)C | C16H22N2O6
